US07541373B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(2-hydroxy-ethylsulfanyl)-thiazol-2-yl]-urea (114 mg, 28%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclo pentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 2-hydroxy-ethanethiol (158 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclo pentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 2-hydroxy-ethanethiol | 2 mmol, 158 mg | OCCS | C2H6OS
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(2-hydroxy-ethylsulfanyl)-thiazol-2-yl]-urea | 114 mg, 28% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC(=CN1)SCCO | C19H23N3O3S2
